US06638929B2
A mixture of 4-chloro-8-(2-chloroethoxy)-7-methoxybenzo[b][1,8]naphthyridine-3-carbonitrile (500 mg, 1.43 mmol) and 2,4-dichloro-5-methoxyaniline (460 mg, 2.39 mmol) in 40 mL of 2-ethoxyethanol is heated at reflux for 20 minutes then cooled to room temperature. The solution is partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is partitioned between ethyl acetate and an aqueous solution of sodium hydroxide and sodium bicarbonate (pH 14). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Ethyl acetate and diethyl ether are added to the residue and the resultant orange solid is collected by filtration to provide 297 mg (41%) of 8-(2-chloroethoxy)-4-(2,4-dichloro-5-methoxyanilino)-7-methoxybenzo[b][1,8]naphthyridine-3-carbonitrile, mp 227-230° C. dec.

reactant | 4-chloro-8-(2-chloroethoxy)-7-methoxybenzo[b][1,8]naphthyridine-3-carbonitrile | 1.43 mmol, 500 mg | ClC=1C=2C=C3C(=NC2N=CC1C#N)C=C(C(=C3)OC)OCCCl | C16H11Cl2N3O2
reactant | 2,4-dichloro-5-methoxyaniline | 2.39 mmol, 460 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
solvent | 2-ethoxyethanol | 40 mL | C(C)OCCO | C4H10O2
product | 8-(2-chloroethoxy)-4-(2,4-dichloro-5-methoxyanilino)-7-methoxybenzo[b][1,8]naphthyridine-3-carbonitrile | 297 mg, 41% | ClCCOC=1C(=CC=2C(=NC=3N=CC(=C(C3C2)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C1)OC | C23H17Cl3N4O3
